US09421532B2
A 30-mL eggplant flask equipped with a magnetic stirrer was heat dried while pumping to a vacuum of 5 Pa before its interior was purged with nitrogen atmosphere. To the flask, 4-phenyl-2-butanone (148 mg, 1.0 mol) and 1,1,1,3,3-pentamethyldisiloxane (371 mg, 2.5 mmol) were added through a syringe, and iron complex A (5.0 mg, 0.01 mmol) was added as catalyst. The solution was stirred at room temperature for 24 hours. At 0° C., THF (1 mL) and tetrabutylammonium fluoride in THF (1 M, 1 mL) were then added to the solution, which was stirred at 0° C. for 1 hour. The solvent was distilled off in vacuum. The crude product was purified by silica gel-packed column chromatography using hexane/ethyl acetate (3/1) as developing solvent, obtaining 4-phenyl-1-butanol (139 mg, 0.92 mmol, 92%). The results are shown as Entry 2 in Table 7. The resulting alcohol was identified for geometry by 1H and 13C-NMR spectroscopy.

reactant | 4-phenyl-2-butanone | 1.0 mol, 148 mg | C1(=CC=CC=C1)CCC(C)=O | C10H12O
reactant | 1,1,1,3,3-pentamethyldisiloxane | 2.5 mmol, 371 mg | C[Si](O[SiH](C)C)(C)C | C5H16OSi2
reactant | tetrabutylammonium fluoride | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | THF | 1 M, 1 mL | C1CCOC1 | C4H8O
solvent | THF | 1 mL | C1CCOC1 | C4H8O
product | 4-phenyl-1-butanol | 0.92 mmol, 139 mg, 92% | C1(=CC=CC=C1)CCCCO | C10H14O
